US05580886
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethoxyphthalimide Hemihydrate
A mixture of 3-(4-piperidinyl)-6-fluorobenzisoxazole (3.42 g, 15 mmol), N-(2-bromoethoxy)-phthalimide (4.3 g, 16 mmol) and K2CO3 (26 g, 18 mmol) in acetonitrile (150 ml) was heated at reflux for 2 hours. The solids were removed and the solvent was evaporated. The residue was purified over a flash chromatography column (packed with SiO2, 60 g; eluted with dichloromethane (DCM) and 1% CH3OH in DCM). The pure product thus obtained, weighing 6.8 g was crystallized from DCM:ethanol. Recrystallization from ethanol and i-propyl ether yielded white crystals (2.4 g, m.p. 125°-127° C. as the hemihydrate.

reactant | 3-(4-piperidinyl)-6-fluorobenzisoxazole | 15 mmol, 3.42 g | N1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C12H13FN2O
reactant | N-(2-bromoethoxy)-phthalimide | 16 mmol, 4.3 g | BrCCON1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO3
reactant | K2CO3 | 18 mmol, 26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethoxyphthalimide Hemihydrate | O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCOC2=C3C(C(=O)NC3=O)=CC=C2)C=C1.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCOC2=C3C(C(=O)NC3=O)=CC=C2)C=C1 | InChI=1S/2C22H20FN3O4.H2O/c2*23-14-4-5-15-18(12-14)30-25-20(15)13-6-8-26(9-7-13)10-11-29-17-3-1-2-16-19(17)22(28)24-21(16)27;/h2*1-5,12-13H,6-11H2,(H,24,27,28);1H2
